US05942641
2,3-Dimethoxyfluorenone (15 g) was dissolved in toluene (300 ml), to which was added anhydrous aluminum chloride (20 g) and the mixture was stirred at 90° C. for 2 hours. After cooling, the reaction solution was poured into ice water (1.5 liter). Then, the insoluble matter formed was filtered, washed with water, dried and recrystallized from ethyl acetate to give 9.8 g of 2,3-dihydroxyfluorenone as a yellow needle-like crystal.

reactant | 2,3-Dimethoxyfluorenone | 15 g | COC=1C(C2=CC3=CC=CC=C3C2=CC1OC)=O | C15H12O3
reactant | aluminum chloride | 20 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dihydroxyfluorenone | 9.8 g | OC=1C(C2=CC3=CC=CC=C3C2=CC1O)=O | C13H8O3
